US07323604B2
Preparation of (E)-3-cyclohexylbut-2-enal:
To a solution of (E)-3-cyclohexylbut-2-enol (700 mg, 4.54 mmol) in dichloromethane (11 mL), cooled to 0° C., was added Dess-Martin periodinane (2.11 g, 4.99 mmol). The resulting suspension was warmed to 23° C. and stirred for approximately 30 minutes until the reaction was judged to be complete by TLC. The reaction mixture was poured into 50 mL of saturated aqueous NaHCO3 containing Na2S2O3 (1 g). This mixture was stirred vigorously until both layers became clear. The aqueous layer was extracted with CH2Cl2 (2×) and the combined organic layers were dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography (25% EtOAc/hexanes) to afford the title compound as a colorless oil (350 mg, 51% yield) that was a 5.2:1 mixture of E:Z isomers. Major isomer: IR (film) 2929, 2854, 1729, 1674, 1640, 1450, 1383, 1198, 1164, 894, 850, 522 cm−1; 1H NMR (300 MHz, CDCl3) δ 10.05 (d, 1H, J=7.9 Hz CHO), 5.90 (dq, 1H, J=1.1, 7.9 Hz, C═CH), 2.18 (d, 3H, J=1.3 Hz, CH3), 2.09-2.02 (m, 1H, CH2CHCH2), 1.87-1.70 (m, 5H), 1.40 (m, 5H); 13C NMR (75 MHz, CDCl3) δ 191.9, 168.8, 125.8, 48.4, 31.4, 31.2, 26.3, 26.1, 26.0, 16.1; HRMS (EI+) exact mass calculated for [M]+ (C10H16O) requires m/z 152.1201, found m/z 152.1205.

reactant | (E)-3-cyclohexylbut-2-enol | 4.54 mmol, 700 mg | C1(CCCCC1)/C(=C/CO)/C | C10H18O
reactant | Dess-Martin periodinane | 4.99 mmol, 2.11 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
reactant | Na2S2O3 | 1 g | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | dichloromethane | 11 mL | ClCCl | CH2Cl2
product | (E)-3-cyclohexylbut-2-enal | 350 mg, 51% yield | C1(CCCCC1)/C(=C/C=O)/C | C10H16O
